Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Motor Vehicle Accident 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
This patient is a ___ year old male here s/p bike accident.
Per a bystander, he was travelling approximately 30 mph when
his gears jammed and he went over the handlebars. He fell
onto his L side and now endorses L elbow, chest and arm pain
with some dyspnea. He does endorse a low impact head strike
with no LOC. he was not wearing a helmet. He currently
reports his pain as severe. He does not have any ___ pain,
but does endorse some L hip pain. He was given 50 mcg of
Fentanyl PTA. His Tetanus is UTD. He denies any changes in
vision, dizziness, n/v/d, memory loss, or incontinence.
 
Past Medical History:
nerve problems in his hands
 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Constitutional: Awake and alert
Head / Eyes: PERRLA, TM clear bilat, no trauma to the mouth, no 
blood on the face
ENT / Neck: L sided neck ttp - C-collar placed
Chest/Resp: Airway intact, Bilateral breath sounds
Cardiovascular: Regular Rate and Rhythm, L clavicle pain, L 
chest wall ttp
GI / Abdominal: Abd S/NT, E fast negative
Pelvic: Pelvis stable
Rectal: Rectal tone intact
Musc/Extr/Back: Bilateral radial pulses, Tenderness to the L 
pelvis and hip, T and upper L spine
tenderness, No step offs
Skin: Abrasion to the L scapula, Superficial abrasion over the L 
elbow, Superficial
abrasion over the L elbow, Tiny abrasion over the L lateral 
malleolus, Small
abrasion over the R medial thigh
Neuro: GCS 15, Sensation and strength intact, A&Ox3
Psych: Normal mentation

DISCHARGE PHYSICAL EXAM: 
98.1  143 / 88     ___ RA 
Gen: [x] NAD, [] AAOx3
CV: [x] RRR, [] murmur
Resp: [x] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [x] soft, [] distended, [] tender, [] rebound/guarding
Wound: [] incisions clean, dry, intact
Ext: [x] warm, [] tender, [] edema

 
Pertinent Results:
ADMISSION LABS: 
___ 01:19PM   WBC-7.7 RBC-4.96 HGB-14.9 HCT-43.7 MCV-88 
MCH-30.0 MCHC-34.1 RDW-13.0 RDWSD-41.7
___ 01:19PM   NEUTS-50.8 ___ MONOS-7.7 EOS-0.7* 
BASOS-0.3 IM ___ AbsNeut-3.92 AbsLymp-2.99 AbsMono-0.59 
AbsEos-0.05 AbsBaso-0.02
___ 01:37PM   GLUCOSE-93 LACTATE-2.3* CREAT-1.0 NA+-141 
K+-4.3 CL--110* TCO2-25

CT CHEST ABD PELVIS  ___
1. Streak like hypodensity through the none left kidney which 
extends to the
collecting system is concerning for a laceration or contusion.  
Given lack of
severe surrounding free fluid, findings suggest a contusion.
2. Mildly displaced fractures through the left fourth-sixth 
ribs.  The fourth
rib is broken in two places.  There is trace left pleural fluid 
which might
represent a small amount of blood.  No pneumothorax.
3. Evidence of prior granulomatous disease including a calcified 
right upper
lobe nodule, calcified paratracheal and right hilar lymph nodes 
as well as a
calcified granulomas in the spleen.

CT C SPINE ___
1. Patient body habitus and dental amalgam streak artifact 
limits study.
2. No acute fracture or traumatic malalignment.
3. Multilevel cervical spondylosis as described.
4. Paranasal sinus disease , as described

CT HEAD ___
1. Limited study as described.
2. Question nondisplaced right nasal bone fracture versus 
nutrient vessel,
without definite evidence of overlying soft tissue swelling.
3.  Within limits of study, no definite evidence of acute 
intracranial
hemorrhage or acute fracture.
4. Question biparietal scalp soft tissue swelling versus 
artifact.
5. Probable paranasal sinus disease as described.  If concern 
for
maxillofacial fracture, consider dedicated maxillofacial CT for 
further
evaluation.
6. On limited imaging the teeth there is right maxillary tooth 
probable
periodontal disease.

ELBOW X RAY ___
IMPRESSION: 
No acute fractures or dislocations are seen. Joint spaces are 
preserved
without significant degenerative changes.  No elbow joint 
effusion is seen. 
There is a peripheral IV catheter within the lateral soft 
tissues of the
elbow.There is mild soft tissue swelling adjacent to the 
olecranon.

DISCHARGE LABS: 
___ 05:19AM BLOOD WBC-8.4 RBC-4.58* Hgb-13.7 Hct-40.4 
MCV-88 MCH-29.9 MCHC-33.9 RDW-12.8 RDWSD-41.3 Plt ___
___ 04:53AM BLOOD Glucose-118* UreaN-13 Creat-1.0 Na-139 
K-4.5 Cl-105 HCO3-20* AnGap-14
___ 04:53AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.0
 
Brief Hospital Course:
P: ___ s/p fall off bike going ~30mph, with L rib ___ fractures, 
L elbow laceration s/p washout, chronic C4 superior/posterior 
endplate fx 

A: 
#Rib Fractures
Pain controlled with acetaminophen 650mg Q6H, lidocaine patch, 
oxycodone to ___ Q4H prn moderate pain, ibuprofen 800mg TID 
with meals in the hospital. Also had IV dilaudid available as 
needed. Participated in incentive spirometer. 

#L elbow laceration
Pain controlled as above. He received saline washout, no sutures 
were placed. Recommended over the counter bacitracin cream or 
Neosporin cream. 

#Possible Kidney Contusion 
Pt had imaging consistent with a possible contusion, however UA 
was bland, without any macro or micro hematuria. 

C: 
#Hand neuropathy 
Pt states that this is has been chronic from his fishing, 
however a chronic C4 superior/posterior endplate fx was found on 
CT. Continued his home gabapentin, flexeril, and ibuprofen. 

T: 
Follow up for tenderness over ribs, shortness or breath. F/U UA 
for possible kidney contusion. F/U home medications. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 800 mg PO TID 
2. Cyclobenzaprine 10 mg PO TID:PRN hand pain 
3. Ibuprofen 800 mg PO QAM:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth up to three 
times a day Disp #*15 Tablet Refills:*0 
3.  Ibuprofen 800 mg PO TID:PRN Pain - Mild  
4.  Cyclobenzaprine 10 mg PO TID:PRN hand pain  
5.  Gabapentin 800 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L rib ___ fractures 
chronic C4 superior/posterior endplate fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. 

You were admitted for rib fractures as well as an elbow 
laceration. You were given pain medications for rib pain and had 
a washout of your left elbow laceration. You continued regular 
regular diet, and received medicine to prevent clots. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

Avoid driving or operating heavy machinery while taking pain 
medications.

Thank you for letting us participate in your care. We wish you 
the best! 

Sincerely, 
Your ___ Surgery Team 
 
Followup Instructions:
___